US07977331B1
To a solution of 2-(2-benzyloxyphenoxy)ethanol (3.07 g, 12.6 mmol) and triethylamine (2.63 ml, 18.8 mmol) in chloroform (30 ml) was added methanesulfonyl chloride (1.12 ml, 14.4 mmol) under ice-cooling, and the mixture was stirred for 2 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure. Hexane was added to the obtained residue and the precipitated solid was collected by filtration and washed with hexane. The obtained solid was dried in vacuo to give 2-(2-benzyloxyphenoxy)ethyl methanesulfonate (3.77 g, yield 93%).

reactant | 2-(2-benzyloxyphenoxy)ethanol | 12.6 mmol, 3.07 g | C(C1=CC=CC=C1)OC1=C(OCCO)C=CC=C1 | C15H16O3
reactant | triethylamine | 18.8 mmol, 2.63 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 14.4 mmol, 1.12 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-benzyloxyphenoxy)ethyl methanesulfonate | 3.77 g, yield 93% | CS(=O)(=O)OCCOC1=C(C=CC=C1)OCC1=CC=CC=C1 | C16H18O5S
